US08124636B2
To a solution of thionyl chloride (8.79 g) in chloroform (20 mL) was added (4-fluoro-phenyl)-(3-hydroxy-propylamino)-acetic acid methyl ester (14.85 g, dissolved in 60 mL of chloroform) dropwise via syringe. The reaction mixture was then stirred for 1.5 hours at 50° C. and the volatiles were subsequently removed in vacuo to give a solid residue which was triturated with diethyl ether (30 mL) to give the desired HCl salt of (3-chloro-propylamino)-(4-fluoro-phenyl)-acetic acid methyl ester (14.88 g, MS (ES+): 260.1 (MH+)) as an off-white solid.

reactant | thionyl chloride | 8.79 g | S(=O)(Cl)Cl | Cl2OS
reactant | (4-fluoro-phenyl)-(3-hydroxy-propylamino)-acetic acid methyl ester | 60 mL, 14.85 g | COC(C(NCCCO)C1=CC=C(C=C1)F)=O | C12H16FNO3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | (3-chloro-propylamino)-(4-fluoro-phenyl)-acetic acid methyl ester | 14.88 g | COC(C(C1=CC=C(C=C1)F)NCCCCl)=O | C12H15ClFNO2
